US04259489
2,3-Dicyano-5-chloro-6-ethylpyrazine (1.92 g; 0.01 mole) was dissolved in 30 ml of acetone. The solution was cooled to 0° to 5° C., and with stirring, 2.02 g (0.02 mole) of di-n-propylamine was added dropwise. The mixture was stirred for 30 minutes. The precipitate was separated by filtration. The filtrate was concentrated under reduced pressure to afford a yellow oily product. Water (20 ml) was added to the oily product, and the precipitated white powder was recrystallized from ethanol to afford 1.28 g (yield 50%) of 2,3-dicyano-5-di-n-propylamino-6-ethylpyrazine.

reactant | 2,3-Dicyano-5-chloro-6-ethylpyrazine | 0.01 mole, 1.92 g | C(#N)C1=NC(=C(N=C1C#N)Cl)CC | C8H5ClN4
reactant | di-n-propylamine | 0.02 mole, 2.02 g | C(CC)NCCC | C6H15N
reactant | Water | 20 ml | O | H2O
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 2,3-dicyano-5-di-n-propylamino-6-ethylpyrazine | 1.28 g, yield 50% | C(#N)C1=NC(=C(N=C1C#N)N(CCC)CCC)CC | C14H19N5
